US05808062
3-Benzoyl-4-hydroxy-6-phenyl-2H-pyran-2-one:
To a solution of ethyl benzoylacetate (150 g, 0.88 mmol) in 1,2-dichlorobenzene (150 mL) was added a trace amount of sodium bicarbonate. The reaction mixture was heated to reflux. A distillate of ethanol (approximately 20 mL) was collected. The reaction mixture was cooled to 0° C. Ether (100 mL) was added to induce crystallization. The reaction mixture was kept in the refrigerator overnight. The solid formed was collected and washed with ether: m.p. 171°-173° C.; 1H NMR (250 MHz, DMSO-d6) δ 6.91 (s, 1 H), 7.59 (m, 6 H), 7.87 (m, 4 H).

reactant | ethyl benzoylacetate | 0.88 mmol, 150 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichlorobenzene | 150 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-Benzoyl-4-hydroxy-6-phenyl-2H-pyran-2-one | C(C1=CC=CC=C1)(=O)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C18H12O4
